US03988453
27 g of 2-trifluoromethyl-phenothiazine and 12 g of α-methylacryloyl chloride in 100 ml of toluene were 1 for 2 hours and the mixture was evaporated to dryness. The residue was chromatographed over silica gel and elution with a 1-- 1 benzene-cyclohexane mixture gave 18 g of 2-trifluoromethyl-10-(α-methyl acryloyl)-phenothiazine in the form of white crystals melting at 103°C.

reactant | 2-trifluoromethyl-phenothiazine | 27 g | FC(C1=CC=2NC3=CC=CC=C3SC2C=C1)(F)F | C13H8F3NS
reactant | α-methylacryloyl chloride | 12 g | CC(C(=O)Cl)=C | C4H5ClO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-trifluoromethyl-10-(α-methyl acryloyl)-phenothiazine | 18 g | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C(=C)C)=O)(F)F | C17H12F3NOS
